US06613760B1
Ethyl N-(3,4-dichlorobenzyl)-4-hydroxymethylindole-2-carboxylate
Ethyl N-(3,4-dichlorobenzyl)-4-(2-tetrahydropyranyloxy)methylindole-2-carboxylate (4.38 g) and p-toluenesulphonic acid (100 mg) in ethanol (100 ml) was stirred at ambient temperature for 3 hours, then concentrated in vacuo and the residue dissolved in ethyl acetate (100 ml), washed with water (100 ml), dried (MgSO4) and concentrated to give the product as an off-white solid (3.22 g, 90%); NMR δ(CD3SOCD3) 1.25 (t, 3H), 4.25 (q, 2H). 4.80 (d, 2H), 5.20 (m, 1H), 5.80 (s, 2H), 6.85 (m, 1H) 7.10 (d, 1H), 7.30 (m, 2H), 7.50 (m, 3H, M/z (+) 378.3 (MH+).

reactant | Ethyl N-(3,4-dichlorobenzyl)-4-(2-tetrahydropyranyloxy)methylindole-2-carboxylate | 4.38 g | ClC=1C=C(CN2C(=CC3=C(C=CC=C23)COC2OCCCC2)C(=O)OCC)C=CC1Cl | C24H25Cl2NO4
reactant | p-toluenesulphonic acid | 100 mg | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | ethanol | 100 ml | C(C)O | C2H6O
product | Ethyl N-(3,4-dichlorobenzyl)-4-hydroxymethylindole-2-carboxylate | 3.22 g, 90% | ClC=1C=C(CN2C(=CC3=C(C=CC=C23)CO)C(=O)OCC)C=CC1Cl | C19H17Cl2NO3
